US06686348B2
Step A: Ethyl 4-[(acetylsulphanyl)methyl]tetrahydro-2H-pyran-4-carboxylate
Under argon, 47 g of triphenylphosphine are dissolved in 350 ml of tetrahydrofuran (THF). After cooling to 0° C., 34.9 ml of diisopropyl azodicarboxylate (DIAD) are added to that solution. After 30 minutes' stirring, a solution containing 89 mmol of ethyl 4-(hydroxymethyl) tetrahydro-2H-pyran-4-carboxylate and 12.8 ml of thioacetic acid in 300 ml of THF is added.

reactant | triphenylphosphine | 47 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 34.9 ml | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | thioacetic acid | 12.8 ml | C(C)(=S)O | C2H4OS
reactant | tetrahydrofuran | 350 ml | O1CCCC1 | C4H8O
reactant | THF | 300 ml | O1CCCC1 | C4H8O
product | Ethyl 4-[(acetylsulphanyl)methyl]tetrahydro-2H-pyran-4-carboxylate | C(C)(=O)SCC1(CCOCC1)C(=O)OCC | C11H18O4S
